US07279469B2
A suspension of 2-(3,4-Dimethoxy-phenylamino)-4H-[1,2,4]triazolo[1,5-a]quinazolin-5-one (57 mg) in phosphorus oxychloride (5 mL) was heated at 90° C. for 2 h. Evaporation. The residue was suspended in dichloromethane, washed with cold sodium bicarbonate, brine and dried (Na2SO4). Filtration and concentration gave crude (5-Chloro-[1,2,4]triazolo[1,5-a]quinazolin-2-yl)-(3,4-dimethoxy-phenyl)-amine (68 mg). LC-MS: m/e=356.1 (M+H),

reactant | 2-(3,4-Dimethoxy-phenylamino)-4H-[1,2,4]triazolo[1,5-a]quinazolin-5-one | 57 mg | COC=1C=C(C=CC1OC)NC1=NN2C(NC(C3=CC=CC=C23)=O)=N1 | C17H15N5O3
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (5-Chloro-[1,2,4]triazolo[1,5-a]quinazolin-2-yl)-(3,4-dimethoxy-phenyl)-amine | 68 mg | ClC1=NC=2N(C3=CC=CC=C13)N=C(N2)NC2=CC(=C(C=C2)OC)OC | C17H14ClN5O2
